US04283532
(i) Preparation of N,N-diethyl-o-(2,6-dichloroanilino)phenylacetamide
A mixture of 6.0 g (0.019 mole) of N,N-diethyl(o-iodophenyl)acetamide, 3.38 g (0.021 mole) of 2,6-dichloroaniline, 2.93 g (0.021 mole) of anhydrous potassium carbonate, 1.0 g of copper powder and 1.0 g of cuprous iodide was reacted in 85 ml of xylene for 24 hours to obtain 5.46 g of a colorless needle having a melting point of 99° to 101° C. The yield was 81.4%.

reactant | N,N-diethyl(o-iodophenyl)acetamide | 0.019 mole, 6.0 g | C(C)N(C(CC1=C(C=CC=C1)I)=O)CC | C12H16INO
reactant | 2,6-dichloroaniline | 0.021 mole, 3.38 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | potassium carbonate | 0.021 mole, 2.93 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 85 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 1.0 g | [Cu] | Cu
product | N,N-diethyl-o-(2,6-dichloroanilino)phenylacetamide | 5.46 g, yield was 81.4% | C(C)N(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)CC | C18H20Cl2N2O
